US04904653
3-Bromo-2-hydroxymethyl-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine
Bromine (0.23 ml) was added dropwise to a stirred solution of 2-hydroxymethyl-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine (1.20 g) and sodium acetate trihydrate (1.8 g) in acetic acid (60 ml) at room temperature. After 1 hour the solution was evaporated, the residue dissolved in water (100 ml), basified to pH~11 with 0.880 ammonia solution and extracted with dichloromethane (2×100 ml). The extracts were dried, filtered and evaporated to a brown oil (1.74 g). Chromatography on silica, eluting with 2% methanol in dichloromethane gave a solid (0.80 g) which was recrystallised from toluene (15 ml) to give the title product (m.p. 141°).

reactant | Bromine | 0.23 ml | BrBr | Br2
reactant | 2-hydroxymethyl-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine | 1.20 g | OCC1=CC2=C(C(CN(CC2)C)C2=CC=CC=C2)S1 | C16H19NOS
reactant | sodium acetate trihydrate | 1.8 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-2-hydroxymethyl-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine | 0.80 g | BrC1=C(SC=2C(CN(CCC21)C)C2=CC=CC=C2)CO | C16H18BrNOS
